US03931235
4-Hydroxy-6-methyl-3-methylthio-2-pyrone
Methanesulfenyl chloride (21.6 g., 0.261 mol) dissolved in methylene chloride (100 ml.) was added to a rapidly stirred slurry of the monosodium salt of 4-hydroxy-6-methyl-2-pyrone (38.6 g., 0.261 mol) in methylene chloride (500 ml.) over a period of 35 minutes. The reaction temperature was maintained at 25°C. with cooling during the addition; then stirring was continued at ambient temperature for 4 hours. The methylene chloride was removed by distillation in vacuo and the residue triturated with water (200 ml.) to remove the by-product sodium chloride. The crude product was removed by filtration, 26.0 g., m. 127°-134°C., 58 percent yield; after recrystallization from 2-propanol, 17.2 g., m. 139°-140.5°C., 38 percent yield

reactant | Methanesulfenyl chloride | 0.261 mol, 21.6 g | CSCl | CH3ClS
reactant | monosodium | [Na] | Na
reactant | 4-hydroxy-6-methyl-2-pyrone | 0.261 mol, 38.6 g | OC1=CC(OC(=C1)C)=O | C6H6O3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 4-Hydroxy-6-methyl-3-methylthio-2-pyrone | 58 percent yield | OC1=C(C(OC(=C1)C)=O)SC | C7H8O3S
